US07968570B2
A mixture of 2-bromomethyl-5-chloro-benzoic acid methyl ester (0.200 g, 0.76 mmol), benzylamine (0.135 mL, 1.25 mmol), and K2CO3 (0.276 g, 3.5 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-benzyl-6-chloro-2,3-dihydro-isoindol-1-one (0.118 g, 60%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.23 (s, 2H), 4.68 (s, 2H), 7.29 (m, 7H), 7.76 (d, 1H). GC-MS: m/z 257 (M)+, 180 (M−77)+.

reactant | 2-bromomethyl-5-chloro-benzoic acid methyl ester | 0.76 mmol, 0.200 g | COC(C1=C(C=CC(=C1)Cl)CBr)=O | C9H8BrClO2
reactant | benzylamine | 1.25 mmol, 0.135 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | K2CO3 | 3.5 mmol, 0.276 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-benzyl-6-chloro-2,3-dihydro-isoindol-1-one | 0.118 g, 60% | C(C1=CC=CC=C1)N1C(C2=CC(=CC=C2C1)Cl)=O | C15H12ClNO
